US05006570
Step II - Preparation of 5-Bromo-6-methylsulphamoylchroman-8- carboxylic acid-Intermediate (Z)
70 g of methylamine in a 40% aqueous solution and 70 ml of water were introduced into a 1-liter round-bottomed flask. The contents were cooled to 0° C. and 160 g of 5-bromo-6-chlorosulphonylchroman-8-carboxylic acid were added in 16 g portions, the introduction of each portion of acid being followed by the addition of 18 ml of a solution containing 90 ml of 30% sodium hydroxide in 90 ml of water. The temperature was maintained between 0° and 5° C. during the entire period of introduction and for a further period of one hour. The temperature was then allowed to rise. The solution obtained was taken up with 1 liter of water, filtered with charcoal and acidified with concentrated hydrochloric acid until a color change of Congo red was observed.

reactant | methylamine | 70 g | CN | CH5N
reactant | 5-bromo-6-chlorosulphonylchroman-8-carboxylic acid | 160 g | BrC1=C2CCCOC2=C(C=C1S(=O)(=O)Cl)C(=O)O | C10H8BrClO5S
reactant | sodium hydroxide | 90 ml | [OH-].[Na+]
solvent | water | 90 ml | O | H2O
solvent | water | 1 liter | O | H2O
solvent | water | 70 ml | O | H2O
product | 5-Bromo-6-methylsulphamoylchroman-8- carboxylic acid | BrC1=C2CCCOC2=C(C=C1S(NC)(=O)=O)C(=O)O | C11H12BrNO5S
